US04203988
B. N,N-Dimethyl-N'-(2-diisopropylaminoethyl)-N'-(4,6-dimethyl-2-pyridyl)ureaDihydrochloride
To a suspension of lithium hydride (0.65 g, 80 mmoles) in dry dioxane (65 ml) under nitrogen atmosphere is added N,N-dimethyl-N'-(4,6-dimethyl-2-pyridyl)urea (5.8 g, 30 mmoles) and the mixture is heated to reflux for three hours. 2-Diisopropylaminoethyl chloride hydrochloride (6.0 g, 30 mmoles) is added cautiously in small portions and refluxing continued for twenty-four hours. The reaction mixture is cooled, salts filtered off and solvent evaporated. The residue is dissolved in methylene chloride and the product is extracted into dilute aqueous hydrochloric acid (10%). This solution is filtered through charcoal, made basic with saturated sodium carbonate, and extracted with methylene chloride. The extract is dried over anhydrous sodium sulfate, filtered and evaporated. The crude product (8.3 g) is taken up in diethyl ether, insoluble material is removed by filtration and hydrogen chloride gas is bubbled into the filtrate. The precipitated salt is collected and recrystallized from isopropanol to give 5.2 g (44.0% yield) of product, m.p. 182°-186° C.

reactant | lithium hydride | 80 mmoles, 0.65 g | [H-].[Li+]
reactant | N,N-dimethyl-N'-(4,6-dimethyl-2-pyridyl)urea | 30 mmoles, 5.8 g | CN(C(=O)NC1=NC(=CC(=C1)C)C)C | C10H15N3O
reactant | 2-Diisopropylaminoethyl chloride hydrochloride | 30 mmoles, 6.0 g | Cl.C(C)(C)N(CCCl)C(C)C
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
product | N,N-Dimethyl-N'-(2-diisopropylaminoethyl)-N'-(4,6-dimethyl-2-pyridyl)ureaDihydrochloride | 5.2 g, 44.0% yield | Cl.Cl.CN(C(=O)N(C1=NC(=CC(=C1)C)C)CCN(C(C)C)C(C)C)C | InChI=1S/C18H32N4O.2ClH/c1-13(2)21(14(3)4)9-10-22(18(23)20(7)8)17-12-15(5)11-16(6)19-17;;/h11-14H,9-10H2,1-8H3;2*1H
